US08445509B2
Production of 2-(3-fluorophenyl)-3-methylpyridine 1-oxide
To a solution (100 mL) of 2-(3-fluorophenyl)-3-methylpyridine (4.83 g, 25.8 mmol) in ethyl acetate was added 3-chloroperbenzoic acid (7.1 g, 28.4 mmol), and the mixture was stirred at 50° C. for 5 hr. The disappearance of 3-chloroperbenzoic acid was confirmed using potassium iodide starch paper (manufactured by ADVANTEC MFS, INC), and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (4.26 g, 81%).

reactant | 2-(3-fluorophenyl)-3-methylpyridine | 25.8 mmol, 100 mL, 4.83 g | FC=1C=C(C=CC1)C1=NC=CC=C1C | C12H10FN
reactant | 3-chloroperbenzoic acid | 28.4 mmol, 7.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-fluorophenyl)-3-methylpyridine 1-oxide | 4.26 g, 81% | FC=1C=C(C=CC1)C1=[N+](C=CC=C1C)[O-] | C12H10FNO
